US07105563B2
5-amino-3-[(imidazol-4-yl)methylene]indolin-2-one (0.3 g, 1.3 mmol) was suspended in tetrahydrofuran (100 mL) and trimethylsilylisocyanate (0.5 mL, 3.75 mmol) was added. The reaction mixture was stirred at ambient temperature for three days. The reaction mixture was concentrated and dissolved in acetonitrile/water/TFA. Soluble solids were collected by filtration, dissolved in DMSO and purified with HPLC to afford 80 mg of 5-ureido-3-[1-(imidazol-4-yl)ethylidene]indolin-2-one; as an orange solid, 1H NMR (400 MHz, DMSO-d6) δ 2.6 (s, 3H), 5.8 (s, 2H), 6.8 (d, 1H), 7.3 (m, 1H), 7.9 (s, 1H), 8.3 (s, 1H), 8.5 (s, 1H), 8.9 (s, 1H), 11.1 (s, 1H) ppm.

reactant | 5-amino-3-[(imidazol-4-yl)methylene]indolin-2-one | 1.3 mmol, 0.3 g | NC=1C=C2C(C(NC2=CC1)=O)=CC=1N=CNC1 | C12H10N4O
reactant | trimethylsilylisocyanate | 3.75 mmol, 0.5 mL | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-ureido-3-[1-(imidazol-4-yl)ethylidene]indolin-2-one | 80 mg | N(C(=O)N)C=1C=C2C(C(NC2=CC1)=O)=C(C)C=1N=CNC1 | C14H13N5O2
